US04251438
4-(phenylmethyl)piperazinone
A solution of ehyl chloroacetate (204 g., 1.67 mole) in ethanol (500 ml.) is added to a stirred solution of ethylenediamine (600 g., 10 mole) in ethanol (3 l.) at 0°. After addition is complete the solution is allowed to warm to 20°-25°. After 5 hours a solution of sodium methoxide (90.0 g., 1.67 mole) in methanol (200 ml.) is added and the solution is stirred overnight, filtered to remove inorganic salts and evaporated to remove solvent and unreacted ethylenediamine. The residual oil (189 g.) is added to a mixture of benzyl chloride (241 g., 1.9 mole) anhydrous sodium carbonate (191 g., 2.28 mole) in ethanol (2.3 l.) and the solution is stirred under reflux for 3 hours. The ethanol is removed under reduced pressure and the residue is partitioned between chloroform and water. Evaporation of the chloroform gave a crystalline product which was recrystallized from ethyl acetate to give the title compound, m.p. 154°- 156°.

reactant | ehyl chloroacetate | 1.67 mole, 204 g | ClCC(=O)OCC | C4H7ClO2
reactant | ethylenediamine | 10 mole, 600 g | C(CN)N | C2H8N2
reactant | sodium methoxide | 1.67 mole, 90.0 g | C[O-].[Na+]
reactant | benzyl chloride | 1.9 mole, 241 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium carbonate | 2.28 mole, 191 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 3 l | C(C)O | C2H6O
solvent | methanol | 200 ml | CO | CH4O
solvent | ethanol | 2.3 l | C(C)O | C2H6O
product | 4-(phenylmethyl)piperazinone | C1(=CC=CC=C1)CN1CC(NCC1)=O | C11H14N2O
